US03993687
Endo-6-(cis- and trans-1-heptenyl)bicyclo[3.1.0]hexan-3-ol tetrahydropyranyl ether
A mixture of hexyltriphenylphosphonium bromide (102 g.) and benzene (1200 ml.) is stirred under nitrogen during addition of a solution of butyl lithium in hexane (146 ml. of a 15% solution - w/v). The resulting mixture is stirred 30 minutes. Then a solution of the mixture (27 g.) of products obtained according to Preparation 4 in 300 ml. of benzene is added dropwise with stirring during 30 minutes. The mixture is heated and stirred at 70° C. for 2.5 hours, and then is cooled to 25° C. The resulting precipitate is collected by filtration and washed with benzene. The filtrate and benzene wash are combined, washed with water, dried, and evaporated to give 58 g. of a mixture of the tetrahydropyranyl ethers of endo-6-(cis- and trans-1-heptenyl)bicyclo[3.1.0]hexan-3-ol and endo-6-(cis- and trans-1 -heptenyl)bicyclo[3.1.0]hexan-2-ol.

reactant | hexyltriphenylphosphonium bromide | 102 g | [Br-].C(CCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyl lithium | C(CCC)[Li]
reactant | bicyclo[3.1.0]hexan-3-ol | C12CC(CC2C1)O | C6H10O
reactant | bicyclo[3.1.0]hexan-2-ol | C12C(CCC2C1)O | C6H10O
solvent | hexane | CCCCCC | C6H14
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1200 ml | C1=CC=CC=C1 | C6H6
product | bicyclo[3.1.0]hexan-3-ol tetrahydropyranyl ether | O1C(CCCC1)OC1CC2CC2C1 | C11H18O2
